US04215044
A cooled (0°-5° C.) solution of 41.4 g (0.41 mol) of diisopropylamine in 300 ml of tetrahydrofuran was treated slowly with butyllithium in hexane (250 ml of a 1.6 M solution, 0.4 mol). A solution of 34.12 g (0.2 mol) of p-chlorophenylacetic acid in 200 ml of tetrahydrofuran was added dropwise and the reaction mixture was stirred 30 minutes at 0° C. Trimethylchlorosilane (100 g) was added and the mixture was allowed to warm to room temperature and was stirred for 1.5 hours. The contents of the flask were filtered under nitrogen and the filtrate was evaporated under reduced pressure. The residue was dissolved in 80 ml of diethyl ether; the solution was filtered and the filtrate was evaporated. The resultant residue was distilled in a Vigreux column, maintaining the pot temperature below 130° C. to prevent decomposition of the product. The product β,β-bis(trimethylsiloxy)p-chlorostyrene, 32.56 g (52% yield), was obtained as a colorless liquid, bp 110° C. (0.1 mm); 1H NMR (CDCl3) δ7.0-7.4 (m, 4H), δ4.52 (s, 1H); δ0.22 (s) and δ0.26 (s) together 18H. The moisture sensitive product was stored under nitrogen.

reactant | diisopropylamine | 0.41 mol, 41.4 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | p-chlorophenylacetic acid | 0.2 mol, 34.12 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | Trimethylchlorosilane | 100 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | β,β-bis(trimethylsiloxy)p-chlorostyrene | 52% yield | C[Si](OC(=CC1=CC=C(C=C1)Cl)O[Si](C)(C)C)(C)C | C14H23ClO2Si2
